US04182757
6.0 g of 1-(2-chloroethyl)-3-ethyl-3-D-glucopyranosylurea are dissolved in 15 ml of formic acid, and 4.0 g of sodium nitrite are added gradually thereto at 0° to 5° C. for one hour under stirring. The mixture is further stirred at the same temperature for 20 minutes. 100 ml of ether-hexane(1:1) are added to the reaction mixture, and the resultant oil is collected therefrom. Said oil is washed with ether. Then, 100 ml of methylene chloride-methanol(5:1) are added to said oil, and insoluble materials are removed by filtration. The filtrate is evaporated to remove solvent, and the residue obtained is purified by silica gel chromatography (Solvent: chloroform-ethyl acetate-methanol (2:1:1)). 2.0 g of 1-(2-chloroethyl)-1-nitroso-3-ethyl-3-D-glucopyranosylurea are thereby obtained as pale yellow caramel.

reactant | 1-(2-chloroethyl)-3-ethyl-3-D-glucopyranosylurea | 6.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC | C11H21ClN2O6
reactant | sodium nitrite | 4.0 g | N(=O)[O-].[Na+]
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 1-(2-chloroethyl)-1-nitroso-3-ethyl-3-D-glucopyranosylurea | 2.0 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC)N=O | C11H20ClN3O7
